US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-pyridin-3-yl-1,3,8-triaza-spiro[4.5]decan-4-one
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one (253 mg) was dissolved in dichloromethane (5 mL), 3-pyridineboronic acid (246 mg), triethylamine (101 mg) and copper(II)-acetate (136 mg) were added. The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was purified by chromatography on silica gel (hexane/ethylacetate=2:1) to yield the desired product (120 mg, 41%), MS: m/e=583.0 (M+H+).

reactant | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 253 mg | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=C(C=CC=C3)Cl)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H18ClF6N3O2
reactant | 3-pyridineboronic acid | 246 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | copper(II)-acetate | 136 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-(2-chloro-phenyl)-3-pyridin-3-yl-1,3,8-triaza-spiro[4.5]decan-4-one | 120 mg, 41% | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=C(C=CC=C3)Cl)C=3C=NC=CC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C27H21ClF6N4O2
